US06727256B1
(4-Benzenesulphonyl-phenyl)-(6-(5-((2-methylthio-ethylamino)-methyl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine dihydrochloride
5-(4-((4-Benzenesulphonyl-phenyl)amino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde (250 mg) and (methylthio)ethylamine (185 mg)) in dichloromethane (5 ml) were reacted together as in Procedure D. Purification using a Bond Elut™ cartridge, gave a yellow solid (245 mg), 70 mg of which was converted to the hydrochloride salt, (yellow solid, 68 mg); m/z 532 (M+1)+.

reactant | 5-(4-((4-Benzenesulphonyl-phenyl)amino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde | 250 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C=O | C24H16N4O4S
reactant | (methylthio)ethylamine | 185 mg | CSCCN | C3H9NS
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (4-Benzenesulphonyl-phenyl)-(6-(5-((2-methylthio-ethylamino)-methyl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine dihydrochloride | 245 mg | Cl.Cl.C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)CNCCSC | InChI=1S/C27H25N5O3S2.2ClH/c1-36-14-13-28-16-20-9-12-26(35-20)24-15-23-25(17-29-24)30-18-31-27(23)32-19-7-10-22(11-8-19)37(33,34)21-5-3-2-4-6-21;;/h2-12,15,17-18,28H,13-14,16H2,1H3,(H,30,31,32);2*1H
